US06028195
1-[N-Isopropyl-N-(4,5-dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-difluorophenyl)piperazine
1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-difluorophenyl)piperazine(0.2 g, 0.52 mmole) was dissolved in dimethylformamide(15 ml) and thereto sodium hydride(12.48 mg, 0.52 mmole) was slowly added. The resulting mixture was stirred at room temperature for 15 min. After 2-iodopropane(87.88 mg, 0.52 mmole) was added thereto, the resulting mixture was stirred at room temperature for 16 hours. The resulting mixture was concentrated under the reduced pressure to remove the used solvent, extracted with methylene chloride, dryed, filtered and purified by column chromatography to obtain the titled compound.

reactant | 1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-difluorophenyl)piperazine | 0.52 mmole, 0.2 g | CC1=CC(=C(C=C1C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)F)F)OC | C20H23F2N3O2
reactant | sodium hydride | 0.52 mmole, 12.48 mg | [H-].[Na+]
reactant | 2-iodopropane | 0.52 mmole, 87.88 mg | IC(C)C | C3H7I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[N-Isopropyl-N-(4,5-dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-difluorophenyl)piperazine | yield: 84% | C(C)(C)N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)F)F)C1=C(C=C(C(=C1)C)C)OC | C23H29F2N3O2
